US08466167B2
To a solution of 5,6-dichloropyridin-3-amine (commercially available) in THF (0.2 M) stirred at 0° C. was added (BOC)2O (1.2 eq). The reaction mixture was heated at 40° C. until full conversion as monitored by TLC. The reaction mixture was then concentrated. Flash chromatography (silica gel, 20-50% EtOAc in hexanes) of the crude afforded tert-butyl 5,6-dichloropyridin-3-ylcarbamate.

reactant | 5,6-dichloropyridin-3-amine | ClC=1C=C(C=NC1Cl)N | C5H4Cl2N2
reactant | (BOC)2O | 1.2 eq | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | tert-butyl 5,6-dichloropyridin-3-ylcarbamate | ClC=1C=C(C=NC1Cl)NC(OC(C)(C)C)=O | C10H12Cl2N2O2
